US07030128B2
A solution of iPrMgCl (2.0M in THF, 1.13 ml, 2.26 mmol) was added dropwise to a stirred suspension of 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine (547 mg, 2.06 mmol) in THF (20 ml) at −78° C. under N2. The resulting solution was stirred at −78° C. for 15 min and then tributyltin chloride (670 μl, 2.47 mmol) was added. The reaction was warmed to 0° C. and stirred for 1 h. 5-Chloro-3-(thien-2-yl)-[1,2,4]thiadiazole (500 mg, 2.47 mmol) and tetrakis(triphenylphosphine)palladium(0) (237 mg, 0.21 mmol) were added and the reaction heated at reflux for 1 h. Copper(I) iodide (50 mg, 0.26 mmol) was added and heating continued for a further 1.5 h. The mixture was concentrated under reduced pressure while dry loading onto silica. The resulting crude residue was purified by column chromatography on silica, using 50% EtOAc in hexane as the eluent, and subsequent recystallisation from dichloromethane/isohexanes gave 3-[3-(thien-2-yl)-[1,2,4]thiadiazol-5-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine (188 mg, 26%): δH (400 MHz, d6-DMSO) 7.30 (1H, t, J 3.7), 7.83-7.90 (2H, m), 8.11 (1H, dd, J 3.7 and 1.1), 9.14 (1H, s), 10.20 (1H, d, J 7.1); m/z (ES+) 353 (M+).

reactant | iPrMgCl | 2.26 mmol, 2.0M, 1.13 ml | C(C)(C)[Mg]Cl
reactant | 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | 2.06 mmol, 547 mg | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | tributyltin chloride | 2.47 mmol, 670 μl | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | 5-Chloro-3-(thien-2-yl)-[1,2,4]thiadiazole | 2.47 mmol, 500 mg | ClC1=NC(=NS1)C=1SC=CC1 | C6H3ClN2S2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.21 mmol, 237 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Copper(I) iodide | 0.26 mmol, 50 mg | [Cu]I
product | 3-[3-(thien-2-yl)-[1,2,4]thiadiazol-5-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | 188 mg, 26% | S1C(=CC=C1)C1=NSC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C13H6F3N5S2
